US09079894B2
To the stirred solution of piperidin-4-one hydrochloride (2.0 g, 14.7 mmol) in DCM (60 mL) cooled at 0° C., was added triethylamine (5.15 mL, 36.75 mmol) and ethylchloroformate (1.59 mL, 16.6 mml). The reaction mixture was stirred at room temperature for 2 hours before being diluted with water. The two layers were separated, the organic layer was dried over anhydrous sodium sulfate and the volatiles were removed under reduced pressure to obtain ethyl 4-oxo-piperidine-1-carboxylate (3.14 grams).

reactant | piperidin-4-one hydrochloride | 14.7 mmol, 2.0 g | Cl.N1CCC(CC1)=O
reactant | triethylamine | 36.75 mmol, 5.15 mL | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 1.59 mL | C(C)OC(=O)Cl | C3H5ClO2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | ethyl 4-oxo-piperidine-1-carboxylate | 3.14 grams, Yield: 98% | O=C1CCN(CC1)C(=O)OCC | C8H13NO3
